US05773512
Preparation of the Nitrobenzophenone Resin-Bound Aryl Silane Intermediate (3-Scheme 6)
1-Scheme 1 (1.0 g, 1.0 mmol) was suspended in THF (10 mL) and cooled to -78° C. Added n-BuLi (1.6M in Hexanes, 1.6 mmol) and allowed to react for 2 h. The mixture was warmed to -65° C.; 2-nitrobenzoyl chloride (1 mL, 7 mmol) was added, and the mixture was allowed to warm to room temperature overnight. Filtration followed by washing with methanol (3×25 mL), water (2×25 mL, methylene chloride (2×25 mL and finally with methanol (50 mL) gave the resin which was dried at 60° C. in vacuo. Recovered (1.0 g). IR 1740, 1520 cm-1.

reactant | n-BuLi | 1.6 mmol, 1.6M | [Li]CCCC
reactant | 2-nitrobenzoyl chloride | 7 mmol, 1 mL | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | Nitrobenzophenone | [N+](=O)([O-])C1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C13H9NO3
